US09422331B2
To a 0° C. solution of (S)-2-(tert-butoxycarbonylamino)butanoic acid (1.00 g, 4.92 mmol) in THF (16.4 ml) was added iodomethane (2.45 ml, 39.4 mmol) followed by sodium hydride (60% w/w dispersion in mineral oil, 590 mg, 14.8 mmol), portionwise. The reaction was allowed to warm to rt and stirred for 18 h, then cooled to 0° C., quenched by the careful addition of H2O, and washed with Et20. The aqueous layer was acidified by the addition of 1 M aq. HCl and extracted with Et20. The combined organic layers were washed with sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated to provide (S)-2-(tert-butoxycarbonyl(methyl)amino)butanoic acid (1.05 g, 98%) as a white solid. MS m/z 240 (MNa)+.

reactant | (S)-2-(tert-butoxycarbonylamino)butanoic acid | 4.92 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | iodomethane | 39.4 mmol, 2.45 ml | IC | CH3I
reactant | sodium hydride | 14.8 mmol, 590 mg | [H-].[Na+]
solvent | THF | 16.4 ml | C1CCOC1 | C4H8O
product | (S)-2-(tert-butoxycarbonyl(methyl)amino)butanoic acid | 1.05 g, 98% | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)CC)C | C10H19NO4
